US04731358
3-methylsulfinylmethyl-β-carboline
160 mg of 3-methylthiomethyl-β-carboline are stirred in 15 ml of methylene chloride with 163 mg of m-chloroperbenzoic acid for 3 hours at room temperature. After extraction with semiconcentrated sodium bicarbonate solution, the organic phase is dried, filtered and concentrated. The residue is stirred with ethyl acetate/ethanol. 76 mg of 3-methylsulfinylmethyl-β-carboline with a 175°-178° C. melting point are obtained as a residue.

reactant | 3-methylthiomethyl-β-carboline | 160 mg | CSCC=1N=CC=2NC3=CC=CC=C3C2C1 | C13H12N2S
reactant | m-chloroperbenzoic acid | 163 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-methylsulfinylmethyl-β-carboline | CS(=O)CC=1N=CC=2NC3=CC=CC=C3C2C1 | C13H12N2OS
